US04098888
To a solution of 3.90 g of sodium 7β-{α-ethoxyimino[2-(chloroacetamido)thiazol-4-yl]acetamido}-3-(1-methyl-1 H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate in 50 ml of water is added 1.52 g of thiourea. The mixture is stirred at room temperature for 3 hours and adjusted to pH 2.0 with 1N hydrochloric acid. The resulting precipitates are filtered, washed with water and dried to obtain 2.40 g of 7β-[α-ethoxyimino-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid. Yield 73.1%.

reactant | sodium 7β-{α-ethoxyimino[2-(chloroacetamido)thiazol-4-yl]acetamido}-3-(1-methyl-1 H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | 3.90 g | C(C)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)[O-])C1=O)C=1N=C(SC1)NC(CCl)=O.[Na+]
reactant | thiourea | 1.52 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 7β-[α-ethoxyimino-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 2.40 g, Yield 73.1% | C(C)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)C=1N=C(SC1)N | C17H19N9O5S3
